US05118681
To a stirred, cooled (0° C.) solution of 21.5 g (0.143 mol) of ethyl malonyl chloride in 250 mL of methylene chloride under nitrogen was added dropwise a solution of 18.47 g (0.143 mol) of n-octylamine in 100 mL of methylene chloride over a half-hour period. After the addition the reaction mixture was allowed to warm to room temperature and stir for 2 h. The reaction mixture was cooled to 0° C. and a solution of 20 mL (0.143 mol) of triethylamine in 100 mL of methylene chloride was added dropwise over 2 h. Additional methylene chloride was added to keep the slurry of salts stirring efficiently. After the addition the reaction mixture was kept cold in a freezer. After 12 h the reaction was allowed to warm to room temperature and was immediately washed with water three times to remove the salts. The organic layer was dried over magnesium sulfate and filtered. Removal of solvent gave 29.5 g (84% yield) of ethyl N-n-octylmalonamide as a pale yellow solid.

reactant | ethyl malonyl chloride | 0.143 mol, 21.5 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | n-octylamine | 0.143 mol, 18.47 g | C(CCCCCCC)N | C8H19N
reactant | triethylamine | 0.143 mol, 20 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | ethyl N-n-octylmalonamide | 29.5 g, 84% yield | C(C)C(C(=O)NCCCCCCCC)C(=O)N | C13H26N2O2
